US05958942
1-[1-(tert-Butoxycarbonyl)piperidin-4-ylmethyl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one
To a suspension of 735 mg (4.24 mmol) of 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one in 15 ml of DMF was added, while stirring under ice-cooling, 187 mg (4.68 mmol) of 60% sodium hydride (dispersion in oil). The mixture was stirred for 20 minutes at the same temperature. To the mixture was added a solution of 1.18 g (4.24 mmol) of 4-bromomethyl-1-tert-butoxycarbonylpiperidine in 5 ml of DMF. The mixture was stirred for one hour at 100° C. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate) to give 988 mg of the desired compound (62.8%, pale yellow solid).

reactant | 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 4.24 mmol, 735 mg | CC=1N=C2N3C1C(NC3=CC=C2)=O | C9H7N3O
reactant | sodium hydride | 4.68 mmol, 187 mg | [H-].[Na+]
reactant | 4-bromomethyl-1-tert-butoxycarbonylpiperidine | 4.24 mmol, 1.18 g | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[1-(tert-Butoxycarbonyl)piperidin-4-ylmethyl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 988 mg, 62.8% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(C=2N3C(C=CC=C13)=NC2C)=O | C20H26N4O3
